US08975415B2
To a solution of methyl 3,3-dimethoxy-1-vinylcyclobutanecarboxylate (2.02 g, 10.09 mmol) in THF (20 mL) was added DIBAL-H (1.04M in toluene, 29 mL, 30.16 mmol) at 0° C. under argon, and the mixture was stirred for 30 minutes at 0° C. To the mixture was carefully added MeOH (29 mL) and Na2SO4.10H2O (29 g), and the mixture was stirred overnight. The mixture was filtered and evaporated under reduced pressure. And the residue was diluted with hexane/EtOAc=1:1 and filtrated through the pad of silica gel and concentrated in vacuo to give (3,3-dimethoxy-1-vinylcyclobutyl)methanol (1.42 g).

reactant | methyl 3,3-dimethoxy-1-vinylcyclobutanecarboxylate | 10.09 mmol, 2.02 g | COC1(CC(C1)(C(=O)OC)C=C)OC | C10H16O4
reactant | DIBAL-H | 30.16 mmol, 1.04M, 29 mL | CC(C)C[AlH]CC(C)C
reactant | MeOH | 29 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3,3-dimethoxy-1-vinylcyclobutyl)methanol | 1.42 g | COC1(CC(C1)(C=C)CO)OC | C9H16O3
